US07750145B2
To a solution of 4-hydroxybenzaldehyde (0.25 g), 2-(tert-butoxycarbonylamino)ethanol (0.33 g) and triphenylphosphine (0.59 g) in tetra hydrofuran (2 mL) was added diethyl azodicarboxylate (40% toluene solution, 1.34 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was directly purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=6/1-3/1) to give 4-[2-(tert-butoxycarbonylamino)ethoxy]benzaldehyde (0.41 g). The title compound was prepared in a similar manner to that described in Reference Example 45 using this material instead of 4-isobutylbenzaldehyde.

reactant | 4-hydroxybenzaldehyde | 0.25 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-(tert-butoxycarbonylamino)ethanol | 0.33 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
reactant | triphenylphosphine | 0.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.34 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetra hydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-[2-(tert-butoxycarbonylamino)ethoxy]benzaldehyde | 0.41 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=O)C=C1 | C14H19NO4
